US04086423
Step 4. N-(p-Nitrobenzyloxycarbonyl)-α-methoxyglycyl chloride
Sodium N-(p-nitrobenzyloxycarbonyl)-α-methoxyglycinate (0.92 g, 3 mMol) is suspended in dry CH2Cl2 (25 ml) and cooled in an ice-water bath. Oxalyl chloride (0.38 g, 3 mMol) and 2 drops of pyridine are added. The resulting mixture is stirred in the cold for 2 hours, and then filtered. The filtrate, which contains N-(p-nitrobenzyloxycarbonyl)-α-methoxyglycyl chloride, is used directly in the next step.

reactant | Sodium N-(p-nitrobenzyloxycarbonyl)-α-methoxyglycinate | 3 mMol, 0.92 g | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C(=O)[O-])OC)C=C1.[Na+]
reactant | Oxalyl chloride | 3 mMol, 0.38 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
product | N-(p-Nitrobenzyloxycarbonyl)-α-methoxyglycyl chloride | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C(=O)Cl)OC)C=C1 | C11H11ClN2O6
